US08202858B2
4-Bromo-3-methyl-benzoic Acid Tert-butyl Ester
4-Bromo-3-methyl-benzoic acid (2.06 g, 9.6 mmol) and thionyl chloride (2.2 ml, 30.2 mmol) in toluene (50 ml) were heated at reflux for 2 h then concentrated in vacuo and azeotroped with toluene. The residue was dissolved in THF (100 ml) and triethylamine (2.8 ml, 20.1 mmol), cooled down to 0° C. and lithium tert-butoxide (1.24 g, 15.5 mmol) was added portionwise. The mixture was stirred for 18 h at room temperature then concentrated in vacuo. The residue was dissolved in EtOAc, washed with 1M HCl, saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 5% EtOAc:95% pet. ether) to yield the title compound (1.86 g, 71%).

reactant | 4-Bromo-3-methyl-benzoic acid | 9.6 mmol, 2.06 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | thionyl chloride | 30.2 mmol, 2.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 20.1 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | lithium tert-butoxide | 15.5 mmol, 1.24 g | CC(C)([O-])C.[Li+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-3-methyl-benzoic Acid Tert-butyl Ester | 1.86 g, 71% | C(C)(C)(C)OC(C1=CC(=C(C=C1)Br)C)=O | C12H15BrO2
